US06194406B1
4-(1-(2-(1H-tetrazol-1-yl)ethyl)-1H-benzimidazol-2-yl)[1,4]diazepane hydriodic Acid Salt
Combine 4-(1-(2-(1H-tetrazol-1-yl)ethyl)-1H-benzimidazol-2-yl)[1,4]diazepane (0.30 g, 0.96 mmol) and methanol (10 mL). Add hydriodic acid (0.27 mL, 57%, 2.02 mmol). After 2 hour, evaporate in vacuo to give a residue. Triturate the residue with diethyl ether (about 20 mL) to give a solid. Collect the solid and dry to give the title compound.

reactant | 4-(1-(2-(1H-tetrazol-1-yl)ethyl)-1H-benzimidazol-2-yl)[1,4]diazepane | 0.96 mmol, 0.30 g | N1(N=NN=C1)CCN1C(=NC2=C1C=CC=C2)N2CCNCCC2 | C15H20N8
reactant | hydriodic acid | 2.02 mmol, 0.27 mL | I | HI
solvent | methanol | 10 mL | CO | CH4O
product | 4-(1-(2-(1H-tetrazol-1-yl)ethyl)-1H-benzimidazol-2-yl)[1,4]diazepane hydriodic Acid Salt | I.N1(N=NN=C1)CCN1C(=NC2=C1C=CC=C2)N2CCNCCC2 | InChI=1S/C15H20N8.HI/c1-2-5-14-13(4-1)18-15(21-8-3-6-16-7-9-21)23(14)11-10-22-12-17-19-20-22;/h1-2,4-5,12,16H,3,6-11H2;1H
